US07635715B2
Step G: Preparation of N-((1-Cyano-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (0.100 g, 0.28 mmol) was placed in a 25 mL round bottom flask and TFA (10 mL) was added. The resulting mixture was then stirred for 45 minutes. TFA was then removed under vacuum, and DCM was used to azeotrope off TFA (3×) resulting in a yellow solid. MS (m/z)=301 (M+H)+. Calculated for C15H12N2O5 300.07.

reactant | 1,1-Dimethylethyl N-((1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 0.28 mmol, 0.100 g | C(#N)C1(C(C(=C(C2=CC=CC=C12)O)C(=O)NCC(=O)OC(C)(C)C)=O)C | C19H20N2O5
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((1-Cyano-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | C(#N)C1(C(C(=C(C2=CC=CC=C12)O)C(=O)NCC(=O)O)=O)C | C15H12N2O5
